US05728835
N-{2-[4-(4-Fluorobenzoyl)piperidino]ethyl}-3-methoxy-N-(2-methoxyphenyl)benzamide
N-Formylmethyl-3-methoxy-N-(2-methoxyphenyl)-benzamide (141 mg, 0.473 mmol), and 4-(4-fluorobenzoyl)piperidine (125 mg, 0.60 mmol) were dissolved in methanol (4.5 ml) to which was subsequently added molecular sieve 4A (300 mg) at room temperature. After 1 hour of stirring at the same temperature, sodium cyanoborohydride (12 mg, 0.191 mmol) was added to the above mixture, followed by 45 minutes of stirring and subsequent addition of acetone (2 ml). The reaction solution was diluted with ether (15 ml) and filtered through cerite, and the solvent was removed by evaporation. The thus obtained colorless oily residue was dissolved in ether (7 ml), mixed with saturated hydrogen chloride/ether solution (7 ml) and stirred for 5 minutes. After removing the ether layer, the reaction solution was mixed with water (7 ml) and potassium carbonate (1.5 g) and extracted with ether and dried on potassium carbonate, and then the solvent was removed by evaporation. Thereafter, the resulting colorless oily residue was purified by subjecting it to a silica gel column chromatography (ether:hexane=3:2) to obtain 107 mg (46.1%) of the title compound in the form of light yellow oil.

reactant | N-Formylmethyl-3-methoxy-N-(2-methoxyphenyl)-benzamide | 0.473 mmol, 141 mg | C(=O)CN(C(C1=CC(=CC=C1)OC)=O)C1=C(C=CC=C1)OC | C17H17NO4
reactant | 4-(4-fluorobenzoyl)piperidine | 0.60 mmol, 125 mg | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
reactant | sodium cyanoborohydride | 0.191 mmol, 12 mg | C(#N)[BH3-].[Na+]
reactant | acetone | 2 ml | CC(=O)C | C3H6O
solvent | methanol | 4.5 ml | CO | CH4O
solvent | ether | 15 ml | CCOCC | C4H10O
product | N-{2-[4-(4-Fluorobenzoyl)piperidino]ethyl}-3-methoxy-N-(2-methoxyphenyl)benzamide | 107 mg, 46.1% | FC1=CC=C(C(=O)C2CCN(CC2)CCN(C(C2=CC(=CC=C2)OC)=O)C2=C(C=CC=C2)OC)C=C1 | C29H31FN2O4
